US07169797B2
5-(3-(((1-acetylpiperidin-4-yl)carbonyl)amino)phenyl)isoxazole-3-carboxylic acid
Ethyl 5-(3-{((1-acetylpiperidin-4-yl)carbonyl)amino}phenyl)isoxazole-3-carboxylate (68 g) was dissolved in THF (1.2 mL)and treated with 1N NaOH solution (1 mL) at ambient temperature for 2 hours, THF was removed under vacuo and 1N HCl was added. The mixture was extracted with ethyl acetate, dried with anhydrous Na2SO4, filtered, concentrated under vacuo to provide the title compound. MS (ESI(+)) m/e 258 (M+H)+, 375 (M+NH4)+, 380 (M+Na)+; 1H NMR (500 MHz, DMSO-d6) δ 10.14 (s, 1H), 8.20 (s, 1H), 7.70 (d, 1H, J=8.1 Hz), 7.60 (d, 1H, J=8.1 Hz), 7.47 (t, 1H, J=8.0 Hz), 7.20 (s, 1H), 4.40 (br d, 1H, J=12.8 Hz), 3.88 (br d, 1H, J=13.4 Hz), 3.08 (br t, 1H, J=12.9 Hz), 2.60 (m, 2H), 2.01 (s, 3H), 1.84 (m, 2H), 1.60 (m, 1H, 1.44 (m, 1H).

reactant | Ethyl 5-(3-{((1-acetylpiperidin-4-yl)carbonyl)amino}phenyl)isoxazole-3-carboxylate | 68 g | C(C)(=O)N1CCC(CC1)C(=O)NC=1C=C(C=CC1)C1=CC(=NO1)C(=O)OCC | C20H23N3O5
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 5-(3-(((1-acetylpiperidin-4-yl)carbonyl)amino)phenyl)isoxazole-3-carboxylic acid | C(C)(=O)N1CCC(CC1)C(=O)NC=1C=C(C=CC1)C1=CC(=NO1)C(=O)O | C18H19N3O5
